US03953604
A solution of 2,4-dihydroxyacetophenone (15.2 g), p-cyano-phenylglycidyl ether (17.5 g) and benzyltrimethyl-ammonium hydroxide (10 drops of a 40% solution) in 2-ethoxyethanol (75 ml) was heated under relux for 48 hours. The solvent was then removed under reduced pressure to give a beige solid. This was triturated with a little ether and filtered to give a pale beige powder, (28.6 g). Recrystallization from ethanol yielded 1-(4-acetyl-3-hydroxy-phenoxy)- 2-hydroxy-3-(p-cyanophenoxy) propane as white needles, m.p. 161.5°-163° C.

reactant | 2,4-dihydroxyacetophenone | 15.2 g | CC(=O)C=1C=CC(=CC1O)O | C8H8O3
reactant | p-cyano-phenylglycidyl ether | 17.5 g | C(#N)C1=CC=C(C=C1)C(C1CO1)OC(C1CO1)C1=CC=C(C=C1)C#N | C20H16N2O3
reactant | benzyltrimethyl-ammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | 2-ethoxyethanol | 75 ml | C(C)OCCO | C4H10O2
product | 1-(4-acetyl-3-hydroxy-phenoxy)- 2-hydroxy-3-(p-cyanophenoxy) propane | C(C)(=O)C1=C(C=C(OCC(COC2=CC=C(C=C2)C#N)O)C=C1)O | C18H17NO5
